US07452880B2
1-[2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-3-methyl-butan-1-one (0.427 g, 1.0 mmol) was dilloved in 10 mL of 10:1 dioxane:EtOH, and hydrazine (0.032 mL) was added. The reaction mixture was heated to 90° C. for four hours, then cooled and quenched by addition of 25 mL saturated aqueous ammonium chloride and 25 mL water. The aqueous mixture was extracted three times with 25 mL EtOAc, and the combined organic layers were washed with saturated aqueous brine, dried (Na2SO4), filtered, and evaporated under reduced pressure. The residue was eluted through silica gel using 20% EtOAc in hexanes to yield 65 mg of 6-(2,4-difluoro-phenoxy)-3-isobutyl-1H-pyrazolo[3,4-d]pyrimidine as an oil. Mass Spec. M+H=305.

reactant | 1-[2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-3-methyl-butan-1-one | 1.0 mmol, 0.427 g | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(CC(C)C)=O)C=CC(=C1)F | C21H16F4N2O3
reactant | EtOH | CCO | C2H6O
reactant | hydrazine | 0.032 mL | NN | H4N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-(2,4-difluoro-phenoxy)-3-isobutyl-1H-pyrazolo[3,4-d]pyrimidine | 65 mg | FC1=C(OC2=NC=C3C(=N2)NN=C3CC(C)C)C=CC(=C1)F | C15H14F2N4O
